simulator lang=spice
// Generated for: spectre
// Generated on: Oct 17 10:26:54 2014
// Design library name: 130nm_BOOLEAN_AND_SPECIAL_final
// Design cell name: NAND4_A
// Design view name: schematic
.SUBCKT NAND4_A A B C D GND VDD Z
simulator lang=spectre

// Library name: 130nm_BOOLEAN_AND_SPECIAL_final
// Cell name: NAND4_A
// View name: schematic
TNB (net58 B net040 GND) nfet l=120.0n w=700n nf=1 m=1 par=1 ngcon=1 \
        ad=3.85e-13 as=3.85e-13 pd=2.5u ps=2.5u nrd=0.2571 nrs=0.2571 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TNA (Z A net58 GND) nfet l=120.0n w=700n nf=1 m=1 par=1 ngcon=1 ad=3.85e-13 \
        as=3.85e-13 pd=2.5u ps=2.5u nrd=0.2571 nrs=0.2571 rf_rsub=1 \
        plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TNC (net040 C net050 GND) nfet l=120.0n w=700n nf=1 m=1 par=1 ngcon=1 \
        ad=3.85e-13 as=3.85e-13 pd=2.5u ps=2.5u nrd=0.2571 nrs=0.2571 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TND (net050 D GND GND) nfet l=120.0n w=700n nf=1 m=1 par=1 ngcon=1 \
        ad=3.85e-13 as=3.85e-13 pd=2.5u ps=2.5u nrd=0.2571 nrs=0.2571 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TPA (Z A VDD VDD) pfet l=120.0n w=800n nf=1 m=1 par=1 ngcon=1 ad=4.4e-13 \
        as=4.4e-13 pd=2.7u ps=2.7u nrd=0.225 nrs=0.225 rf_rsub=1 plnest=-1 \
        plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 rgatemod=0 \
        rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p \
        panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 sb=5.5e-07 sd=0u \
        dtemp=0
TPB (Z B VDD VDD) pfet l=120.0n w=800n nf=1 m=1 par=1 ngcon=1 ad=4.4e-13 \
        as=4.4e-13 pd=2.7u ps=2.7u nrd=0.225 nrs=0.225 rf_rsub=1 plnest=-1 \
        plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 rgatemod=0 \
        rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p \
        panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 sb=5.5e-07 sd=0u \
        dtemp=0
TPC (Z C VDD VDD) pfet l=120.0n w=800n nf=1 m=1 par=1 ngcon=1 ad=4.4e-13 \
        as=4.4e-13 pd=2.7u ps=2.7u nrd=0.225 nrs=0.225 rf_rsub=1 plnest=-1 \
        plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 rgatemod=0 \
        rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p \
        panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 sb=5.5e-07 sd=0u \
        dtemp=0
TPD (Z D VDD VDD) pfet l=120.0n w=800n nf=1 m=1 par=1 ngcon=1 ad=4.4e-13 \
        as=4.4e-13 pd=2.7u ps=2.7u nrd=0.225 nrs=0.225 rf_rsub=1 plnest=-1 \
        plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 rgatemod=0 \
        rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p \
        panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 sb=5.5e-07 sd=0u \
        dtemp=0
simulator lang=spice
.ENDS
