simulator lang=spice
// Generated for: spectre
// Generated on: Oct 17 10:26:59 2014
// Design library name: 130nm_BOOLEAN_AND_SPECIAL_final
// Design cell name: OR2_A
// Design view name: schematic
.SUBCKT OR2_A A B GND VDD Z
simulator lang=spectre

// Library name: 130nm_BOOLEAN_AND_SPECIAL_final
// Cell name: OR2_A
// View name: schematic
TNZ (Z net14 GND GND) nfet l=120.0n w=160.0n nf=1 m=1 par=1 ngcon=1 \
        ad=8.8e-14 as=8.8e-14 pd=1.42u ps=1.42u nrd=1.125 nrs=1.125 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TNB (net14 B GND GND) nfet l=120.0n w=160.0n nf=1 m=1 par=1 ngcon=1 \
        ad=8.8e-14 as=8.8e-14 pd=1.42u ps=1.42u nrd=1.125 nrs=1.125 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TNA (net14 A GND GND) nfet l=120.0n w=160.0n nf=1 m=1 par=1 ngcon=1 \
        ad=8.8e-14 as=8.8e-14 pd=1.42u ps=1.42u nrd=1.125 nrs=1.125 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TPZ (Z net14 VDD VDD) pfet l=120.0n w=360.0n nf=1 m=1 par=1 ngcon=1 \
        ad=1.98e-13 as=1.98e-13 pd=1.82u ps=1.82u nrd=0.5 nrs=0.5 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TPA (net14 A net21 VDD) pfet l=120.0n w=160.0n nf=1 m=1 par=1 ngcon=1 \
        ad=8.8e-14 as=8.8e-14 pd=1.42u ps=1.42u nrd=1.125 nrs=1.125 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TPB (net21 B VDD VDD) pfet l=120.0n w=160.0n nf=1 m=1 par=1 ngcon=1 \
        ad=8.8e-14 as=8.8e-14 pd=1.42u ps=1.42u nrd=1.125 nrs=1.125 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
simulator lang=spice
.ENDS
