simulator lang=spice
// Generated for: spectre
// Generated on: Oct 17 10:26:56 2014
// Design library name: 130nm_BOOLEAN_AND_SPECIAL_final
// Design cell name: XNOR2_A
// Design view name: schematic
.SUBCKT XNOR2_A A B GND VDD Z
simulator lang=spectre

// Library name: 130nm_BOOLEAN_AND_SPECIAL_final
// Cell name: XNOR2_A
// View name: schematic
TNBNOT (Z net076 net080 GND) nfet l=120.0n w=340.0n nf=1 m=1 par=1 ngcon=1 \
        ad=1.87e-13 as=1.87e-13 pd=1.78u ps=1.78u nrd=0.5294 nrs=0.5294 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TNA (net080 A GND GND) nfet l=120.0n w=580.0n nf=1 m=1 par=1 ngcon=1 \
        ad=3.19e-13 as=3.19e-13 pd=2.26u ps=2.26u nrd=0.3103 nrs=0.3103 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TNANOT (Z net080 net076 GND) nfet l=120.0n w=340.0n nf=1 m=1 par=1 ngcon=1 \
        ad=1.87e-13 as=1.87e-13 pd=1.78u ps=1.78u nrd=0.5294 nrs=0.5294 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TNB (net076 B GND GND) nfet l=120.0n w=340.0n nf=1 m=1 par=1 ngcon=1 \
        ad=1.87e-13 as=1.87e-13 pd=1.78u ps=1.78u nrd=0.5294 nrs=0.5294 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TPA (net080 A VDD VDD) pfet l=120.0n w=720.0n nf=1 m=1 par=1 ngcon=1 \
        ad=3.96e-13 as=3.96e-13 pd=2.54u ps=2.54u nrd=0.25 nrs=0.25 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TPANOT (net051 net080 VDD VDD) pfet l=120.0n w=720.0n nf=1 m=1 par=1 \
        ngcon=1 ad=3.96e-13 as=3.96e-13 pd=2.54u ps=2.54u nrd=0.25 \
        nrs=0.25 rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 \
        lstis=1 lnws=0 rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p \
        panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p \
        sa=5.5e-07 sb=5.5e-07 sd=0u dtemp=0
TPBM1 (Z B net080 VDD) pfet l=120.0n w=440.0n nf=1 m=1 par=1 ngcon=1 \
        ad=2.42e-13 as=2.42e-13 pd=1.98u ps=1.98u nrd=0.4091 nrs=0.4091 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TPB (net076 B VDD VDD) pfet l=120.0n w=400.0n nf=1 m=1 par=1 ngcon=1 \
        ad=2.2e-13 as=2.2e-13 pd=1.9u ps=1.9u nrd=0.45 nrs=0.45 rf_rsub=1 \
        plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TPBNOT (Z net076 net051 VDD) pfet l=120.0n w=720.0n nf=1 m=1 par=1 ngcon=1 \
        ad=3.96e-13 as=3.96e-13 pd=2.54u ps=2.54u nrd=0.25 nrs=0.25 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
simulator lang=spice
.ENDS
